US05366972
5,11-Dihydro-11-ethyl-2-[(S)-2-(hydroxymethyl)pyrrolidin-1-yl]-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound, m.p. 238°-240° C., was synthesized from 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and (S)-(+)-2-pyrrolidinemethanol using procedures analogous to those described above, except that the mixture was heated in a pressure bottle at 170° C. for 3 hrs, and the product was crystallized from chloroform/hexane.

reactant | 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C14H13ClN4O
reactant | (S)-(+)-2-pyrrolidinemethanol | N1[C@@H](CCC1)CO | C5H11NO
product | 5,11-Dihydro-11-ethyl-2-[(S)-2-(hydroxymethyl)pyrrolidin-1-yl]-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC(=N2)N2[C@@H](CCC2)CO)C | C19H23N5O2
